US04061656
3-ethoxycarbonyl-4-methyl-hexane-2,5-dione
7.3 G., 0.317 mol of sodium was dissolved in 125 ml. of absolute ethanol. 87.0 G. (0.669 mol) of ethyl acetoacetate were added to the resulting solution of sodium ethoxide in the cold. The reaction mixture was heated to reflux and 48.6 g. (0.322 mol) of freshly distilled 3-bromo-2-butanone were added dropwise with stirring over a period of 30 min. Refluxing was continued until the mixture tested neutral to pH paper (~1.5 hrs.). The precipitated sodium bromide was filtered off the cold solution and most of the ethanol was removed on an evaporator. The mixture was filtered again and distilled. The 3-ethoxycarbonyl-4-methylhexane-2,4-dione fraction which boiled at 131°-137° C./18 mm. was collected.

reactant | sodium | 0.317 mol | [Na] | Na
reactant | ethyl acetoacetate | 0.669 mol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-bromo-2-butanone | BrC(C(C)=O)C | C4H7BrO
solvent | ethanol | C(C)O | C2H6O
product | 3-ethoxycarbonyl-4-methyl-hexane-2,5-dione | C(C)OC(=O)C(C(C)=O)C(C(C)=O)C | C10H16O4
